US06346532B1
A reaction mixture of 5.12 g of methyl 2-pyridylacetate, 5.14 g of 4-aminobenzyl cyanide and 50 ml of xylene was heated to reflux for 24 hours. An appropriate amount of the solvent was evaporated, diethyl ether was added to the residue, and the resulting crystals were taken by filtration to give 5.65 g of 4′-cyanomethyl-2-(2-pyridyl)acetanilide.

reactant | methyl 2-pyridylacetate | 5.12 g | N1=C(C=CC=C1)CC(=O)OC | C8H9NO2
reactant | 4-aminobenzyl cyanide | 5.14 g | NC1=CC=C(CC#N)C=C1 | C8H8N2
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4′-cyanomethyl-2-(2-pyridyl)acetanilide | 5.65 g | C(#N)CC1=CC=C(NC(CC2=NC=CC=C2)=O)C=C1 | C15H13N3O
